US09035073B2
(+)-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine
To a solution of (+)-1-benzyl-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine (1.04 g, 3.25 mmol) in 1,2-dichloroethane (10 ml), was added 1-chloroethyl chloroformate (1.42 ml, 13.08 mmol) and the mixture was heated to reflux for 2 h after which the solvent was evaporated. The mixture was dissolved in methanol (20 ml) and heated to reflux for 1 h, the solvent was evaporated and purified by HPLC on waters OBD C18, 5 μm (MeOH/33 mM NH3, 20:80 to 50:50) give the title compound 0.47 g (63%). [a]D=+6.5° (methanol). The amine was converted to the oxalic acid salt and recrystallized from methanol/diethyl ether: M.p. 183-185° C. MS m/z (rel. intensity, 70 eV) 229 (M+, 1), 199 (86), 187 (bp), 157 (49), 133 (42).

reactant | (+)-1-benzyl-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine | 3.25 mmol, 1.04 g | C(C1=CC=CC=C1)N1CC(CC1)(OC)C1=C(C(=CC=C1)Cl)F | C18H19ClFNO
reactant | 1-chloroethyl chloroformate | 13.08 mmol, 1.42 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | (+)-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine | 0.47 g, 63% | ClC=1C(=C(C=CC1)C1(CNCC1)OC)F | C11H13ClFNO
